US04608374
11-{1-[3-(Phenoxy)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a solution of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.07 g, 0.019 mole in 75 ml DMF), 10 g milled K2CO3 and 10 mg KI, was added a solution of 3-phenoxypropylbromide (4.78 g, 0.022 mole in 20 ml DMF).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.019 mole, 75 ml, 5.07 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-phenoxypropylbromide | 0.022 mole, 20 ml, 4.78 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
product | 11-{1-[3-(Phenoxy)propyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | O(C1=CC=CC=C1)CCCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C26H30N2O2
